US03998834
To 792 parts of concentrated hydrochloric acid solution are added 100 parts of 1-(phenylmethyl)-4-{[3-(trifluoromethyl)phenyl]amino}-4-piperidinecarboxamide. The whole is heated to reflux temperature while stirring. 230 Parts of water are added followed by the addition of anti-foam. Stirring at reflux is continued for 3.50 h. After cooling to room temperature, the reaction mixture is poured into a vessel and 200 parts of water are added. The whole is strongly alkalized with sodium hydroxide while stirring vigorously: a precipitate is formed. The supernatant aqueous phase is decanted and the residual precipitate is dissolved in water. The resulting solution is cooled and acidified with acetic acid (pH = about 7), whereupon the product is precipitated. It is filtered off and boiled in N,N-dimethylformamide. After cooling, the product is filtered off again, washed successively with ethanol and 2,2'-oxybispropane and dried. The less pure fraction is crystallized from N,N-dimethylformamide. The pure product is filtered off, washed successively with ethanol and with N,N-dimethylformamide, and dried at 140° C, yielding 1-(phenylmethyl)-4-[ 3-(trifluoromethyl)phenylamino]-4-piperidinecarboxylic acid; mp. 264.3° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 1-(phenylmethyl)-4-{[3-(trifluoromethyl)phenyl]amino}-4-piperidinecarboxamide | C1(=CC=CC=C1)CN1CCC(CC1)(C(=O)N)NC1=CC(=CC=C1)C(F)(F)F | C20H22F3N3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(phenylmethyl)-4-[ 3-(trifluoromethyl)phenylamino]-4-piperidinecarboxylic acid | C1(=CC=CC=C1)CN1CCC(CC1)(C(=O)O)NC1=CC(=CC=C1)C(F)(F)F | C20H21F3N2O2
